US06677368B2
N-(2-Dimethylamino-ethyl)-2-(3-{3-[1-[3-methyl-4-(morpholine-4-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indol-4-yl}-phenyl)-acetamide
(3-{3-[1-[3-Methyl-4-(morpholine-4-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indol-4-yl}-phenyl)-acetic acid (117.6 mg, 0.25 mmol) was coupled with N,N-dimethylethylenediamine (2 eq.), EDC (1.5 eq.) and HOBt (1 eq.) in DMF (1 mL) using the general amidation procedure to give 117.3 mg of the titled compound.

reactant | (3-{3-[1-[3-Methyl-4-(morpholine-4-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indol-4-yl}-phenyl)-acetic acid | 0.25 mmol, 117.6 mg | CC1=C(NC=C1C(=O)N1CCOCC1)\C=C\1/C(NC2=CC=CC(=C12)C=1C=C(C=CC1)CC(=O)O)=O | C27H25N3O5
reactant | N,N-dimethylethylenediamine | 2 eq. | CN(CCN)C | C4H12N2
reactant | EDC | 1.5 eq.
reactant | HOBt | 1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(2-Dimethylamino-ethyl)-2-(3-{3-[1-[3-methyl-4-(morpholine-4-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indol-4-yl}-phenyl)-acetamide | 117.3 mg | CN(CCNC(CC1=CC(=CC=C1)C1=C2/C(/C(NC2=CC=C1)=O)=C/C=1NC=C(C1C)C(=O)N1CCOCC1)=O)C | C31H35N5O4
